US05234918
8-(Hexadecyloxy)-7-methoxy-1-octanol
To a solution of 8-(hexadecyloxy)-7-methoxy-1-octene in 100 ml of tetrahydrofuran was added a solution of 112.3 ml of 1.0M borane in tetrahydrofuran at 0° C. over a 1 hour period. The mixture was stirred on addition 3 hours at 25° C. The solution was recooled to 0° C. and a solution of 187.3 ml of 3M sodium hydroxide was slowly added followed by 216 ml of 30% hydrogen peroxide. After 30 minutes, the mixture was poured into water and extracted with ether. The ether solution was dried and evaporated. The residue was purified by chromatography giving 20 g of the title compound as a solid.

reactant | 8-(hexadecyloxy)-7-methoxy-1-octene | C(CCCCCCCCCCCCCCC)OCC(CCCCC=C)OC | C25H50O2
reactant | borane | 1.0M, 112.3 ml | B | BH3
reactant | sodium hydroxide | 3M, 187.3 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 216 ml | OO | H2O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 8-(Hexadecyloxy)-7-methoxy-1-octanol | 20 g | C(CCCCCCCCCCCCCCC)OCC(CCCCCCO)OC | C25H52O3
